US06969711B2
Into a solution of 4-(aminoethyl)piperazine-1-ethanol in chloroform (20 ml) was dropped a solution of 2,6-diisopropylphenyl isocyanate (2.03 g, 10 mmol) in chloroform (20 ml) followed by stirring for 5 minutes. The reaction solution was concentrated in vacuo and the residue was purified by a silica gel column chromatography (100 g of silica gel; developing solvents, chloroform→chloroform:ammonia-saturated methanol =20:1) to provide 2.03 g (yield 54%) of N-[2-[4-(2-hydroxyethyl)piperazin-1-yl]ethyl]-N′-(2,6-di-isopropylphenyl)urea.

reactant | 4-(aminoethyl)piperazine-1-ethanol | NCCN1CCN(CC1)CCO | C8H19N3O
reactant | 2,6-diisopropylphenyl isocyanate | 10 mmol, 2.03 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-[4-(2-hydroxyethyl)piperazin-1-yl]ethyl]-N′-(2,6-di-isopropylphenyl)urea | 2.03 g, yield 54% | OCCN1CCN(CC1)CCNC(=O)NC1=C(C=CC=C1C(C)C)C(C)C | C21H36N4O2
